US06803365B2
Ethyl 2-acetylamino-2-cyanopentanoate
1.35 g of sodium (58.8 mmol) are dissolved in 200 ml of ethanol and the resulting solution is cooled down to 0° C. 10 g (58.8 mmol) of ethyl acetamidocyanoacetate are added. After a clear solution has formed, a solution of 7.23 g (58.8 mmol) of bromopropane in 10 ml of ethanol is added dropwise and the reaction mixture is stirred at room temperature for 2 hours. A solution of 7.23 g (58.8 mmol) of bromopropane in 10 ml of ethanol is added once again and the reaction mixture is heated under reflux for 16 hours. The solvent is removed in vacuo and the residue is taken up in dichloromethane; the solution is washed with water and dried over magnesium sulfate. The solvent is removed in vacuo and the residue is stirred up with petroleum ether. After filtering off with suction, 7.5 g (60%) of ethyl 2-acetylamino-2-cyanopentanoate are obtained.

reactant | sodium | 58.8 mmol, 1.35 g | [Na] | Na
reactant | ethyl acetamidocyanoacetate | 58.8 mmol, 10 g | C(C)(=O)NC(C(=O)OCC)C#N | C7H10N2O3
reactant | bromopropane | 58.8 mmol, 7.23 g | BrCCC | C3H7Br
reactant | bromopropane | 58.8 mmol, 7.23 g | BrCCC | C3H7Br
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 2-acetylamino-2-cyanopentanoate | C(C)(=O)NC(C(=O)OCC)(CCC)C#N | C10H16N2O3
